US07109212B2
1-(2-(Acetoxymethyl)quinolin-5-ylamino)-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol
A solution that consists of 170 mg (0.34 mmol) of 1-(2-(acetoxymethyl)quinolin-5-ylimino)-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol in 1.5 ml of methanol and 0.8 ml of tetrahydrofuran is mixed with 53 mg (1.38 mmol) of sodium borohydride. After 3 hours at room temperature, the reaction is halted by adding water. It is extracted with ethyl acetate, the combined organic phases are washed with saturated sodium chloride solution and dried on sodium sulfate. After removal of the solvent and chromatography on silica gel with hexane-ethyl acetate (0–100%), 94 mg (55% of theory) of the product is obtained.

reactant | 1-(2-(acetoxymethyl)quinolin-5-ylimino)-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol | 0.34 mmol, 170 mg | C(C)(=O)OCC1=NC2=CC=CC(=C2C=C1)N=CC(CC(C)(C)C1=C(C=CC(=C1)F)OC)(O)C(F)(F)F | C26H26F4N2O4
reactant | sodium borohydride | 1.38 mmol, 53 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 1.5 ml | CO | CH4O
solvent | tetrahydrofuran | 0.8 ml | O1CCCC1 | C4H8O
product | 1-(2-(Acetoxymethyl)quinolin-5-ylamino)-4-(5-fluoro-2-methoxyphenyl)-4-methyl-2-(trifluoromethyl)pentan-2-ol | C(C)(=O)OCC1=NC2=CC=CC(=C2C=C1)NCC(CC(C)(C)C1=C(C=CC(=C1)F)OC)(O)C(F)(F)F | C26H28F4N2O4
